* C:\Users\Parry\Documents\GitHub\BCIT-BAJA-HARDWARE\Revision01\LTSpice\strainGaugeTransientAnalysis.asc
* Generated by LTspice 24.1.9 for Windows.
V1 StrainV+ 0 4.9
V2 EN 0 PULSE(0 3.3 0 0.1us 0.1us 0.5ms 1ms)
R2 StrainV+ AIN- 350
R3 StrainV+ AIN+ 350
R4 AIN- StrainV- 350
R10 StrainV+ N001 350
R11 StrainV+ N002 350
R12 N001 StrainV- 350
R13 N002 StrainV- 350
R14 StrainV+ N003 350
R15 StrainV+ N004 350
R16 N003 StrainV- 350
R17 N004 StrainV- 350
R18 StrainV+ N005 350
R19 StrainV+ N006 350
R20 N005 StrainV- 350
R21 N006 StrainV- 350
R22 StrainV+ N007 350
R23 StrainV+ N008 350
R24 N007 StrainV- 350
R25 N008 StrainV- 350
R26 StrainV+ N009 350
R27 StrainV+ N010 350
R28 N009 StrainV- 350
R29 N010 StrainV- 350
R30 StrainV+ N011 350
R31 StrainV+ N012 350
R32 N011 StrainV- 350
R33 N012 StrainV- 350
R34 StrainV+ N013 350
R35 StrainV+ N014 350
R36 N013 StrainV- 350
R37 N014 StrainV- 350
R5 AIN+ StrainV- 354.2
M2 StrainV- EN 0 0 IRLML6346
R1 EN 0 10K
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Parry\AppData\Local\LTspice\lib\cmp\standard.mos
.lib library\INA317.LIB
.lib library\tlv9062.LIB
.lib library\INA333.LIB
.tran 0 2ms 0 1us
.backanno
.end
